US05442064
4-(4-Aminocarbonylphenyl)-1-tert.butyloxycarbonyl-piperidine
To a solution of 21.4 g of 1-tert.butyloxycarbonyl-4-(4-carboxyphenyl)-piperidine in 250 ml of anhydrous dimethylformamide are added, at -10° C., 9.5 g of 1-hydroxy-(1H)-benzotriazole and 17.3 g of N,N'-dicyclohexylcarbodiimide. The mixture is stirred for 15 minutes at -10° C. and the temperature is allowed to come up to ambient temperature within 1 hour. Then at -10° C. 20 ml of conc. ammonia are added dropwise with vigorous stirring. The mixture is stirred for 1 hour at -10° C. and for a further 2 hours at ambient temperature. The solvent is removed under reduced pressure. The residue remaining is suspended in water and the aqueous phase is extracted four times with ethyl acetate. The combined ethyl acetate phases are filtered, the filtrate is dried over sodium sulphate and the solvent is removed under reduced pressure. The residue remaining is chromatographed over silica gel. Yield: 17.5 g (82% of theory), Melting point: 188°-191° C. Rf value: 0.36 (silica gel; ethyl acetate/cyclohexane=4:1)

reactant | 1-tert.butyloxycarbonyl-4-(4-carboxyphenyl)-piperidine | 21.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)C(=O)O | C17H23NO4
reactant | 1-hydroxy-(1H)-benzotriazole | 9.5 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N,N'-dicyclohexylcarbodiimide | 17.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | ammonia | 20 ml | N | H3N
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 4-(4-Aminocarbonylphenyl)-1-tert.butyloxycarbonyl-piperidine | NC(=O)C1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C17H24N2O3
